US07465731B2
A solution of benzyl 4-methyl-2-(methylthio)-5-pyrimidinecarboxylate (6.0 g) and 1-benzyl-3-aminopyrrolidine (5.78 g) in dioxane (10 ml) was stirred at 130° C. for 15 hours under atmospheric pressure of nitrogen. The reaction mixture was poured into a mixture of AcOEt and H2O and the organic layer was washed with brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was chromatographed on allunima eluting with AcOEt-n-hexane (6:4). The eluted fractions containing the desired product were collected and evaporated in vacuo to give benzyl 2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinecarboxylate (3.06 g).

reactant | benzyl 4-methyl-2-(methylthio)-5-pyrimidinecarboxylate | 6.0 g | CC1=NC(=NC=C1C(=O)OCC1=CC=CC=C1)SC | C14H14N2O2S
reactant | 1-benzyl-3-aminopyrrolidine | 5.78 g | C(C1=CC=CC=C1)N1CC(CC1)N | C11H16N2
reactant | AcOEt | CCOC(=O)C | C4H8O2
reactant | H2O | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | benzyl 2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinecarboxylate | 3.06 g | C(C1=CC=CC=C1)N1CC(CC1)NC1=NC=C(C(=N1)C)C(=O)OCC1=CC=CC=C1 | C24H26N4O2
